US07906652B2
Step 11: Ethyl 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzoate
To a mixture of 5.72 g (10.4 mmol) of 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzoic acid in 230 mL of EtOH, was added a solution of 25 mL of 4N HCl in dioxane. After 7.5 h at reflux, the solution was cooled and concentrated to remove solvents. To the residue were added 150 mL of CH2Cl2 and 30 mL of H2O and the pH was adjusted to 7-8 with aq NaHCO3. The aqueous layer was extracted with three 100 mL portions of CH2Cl2 and the combined organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound as a white solid; 1H-NMR(CDCl3) δ 1.25 (d, 3H, J1=22 Hz), 1.27 (d, 3H, J1=22 Hz), 1.40(t, 3H, J=7.1 Hz), 2.34(t, 1H, J=7.5 Hz), 2.83-2.89(m, 2H), 3.10-3.15(m, 2H), 3.62 (m, 1H), 4.30(s, 1H), 4.38 (q, 2H, J1=14.2 Hz, J2=7.1 Hz), 6.85 (d, 1H, J=9.4 Hz), 7.10-7.11(m, 2H), 7.26-7.38 (m, 5H), 7.55 (d, 1H, J=7.8 Hz), 7.86 (d, 1H, J=7.7 Hz), 8.05 (s, 1H); Mass Spectrum: m/e=576, (M+1, 35Cl 79Br), 578 (M+1, 37Cl79Br/35Cl 81Br), 580 (M+1, 37Cl 81Br).

reactant | 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzoic acid | 10.4 mmol, 5.72 g | BrC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C27H25BrClF2NO2
reactant | HCl | 4N, 25 mL | Cl | ClH
reactant | EtOH | 230 mL | CCO | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzoate | BrC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C(=O)OCC)C=CC1)C1=CC=C(C=C1)Cl | C29H29BrClF2NO2
